US07968570B2
A mixture of 2-bromomethyl-benzoic acid methyl ester (0.23 g, 1.0 mmol), 3-(3-trifluoromethoxy-phenyl)-propylamine (0.219 g, 1.0 mmol), and K2CO3 (0.25 g, 1.8 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-[3-(3-trifluoromethoxy-phenyl)-propyl]-2,3-dihydro-isoindol-1-one (0.153 g, 46%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.02 (m, 2H), 2.72 (t, 2H), 3.69 (t, 2H), 4.36 (s, 2H), 7.02-7.56 (m, 7H), 7.84 (d, 1H). GC-MS: m/z 335 (M)+.

reactant | 2-bromomethyl-benzoic acid methyl ester | 1.0 mmol, 0.23 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | 3-(3-trifluoromethoxy-phenyl)-propylamine | 1.0 mmol, 0.219 g | FC(OC=1C=C(C=CC1)CCCN)(F)F | C10H12F3NO
reactant | K2CO3 | 1.8 mmol, 0.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-[3-(3-trifluoromethoxy-phenyl)-propyl]-2,3-dihydro-isoindol-1-one | 0.153 g, 46% | FC(OC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1)=O)(F)F | C18H16F3NO2
